US05656629
Sodium (0.253 g) was dissolved in ethanol (15 ml) and then 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (0.813 g, 3.7 mmol) and methyl 4-(5-tetrazolylmethoxy)phenylacetate (17 g, 7.3 mmol) were added. The reaction mixture was refluxed for about 2 days, cooled, and then the solvent was removed in vacuo. The residue was treated with water and acetic acid and the precipitate which formed was collected by filtration and dried at 60° C. under vacuum. The product was then dissolved in ethyl acetate, extracted with Na2CO3 (4×200 ml) and the aqueous layer was acidified to pH 2.5 with concentrated HCl. The aqueous layer was then extracted with ethyl acetate (2×300 ml) and the organic layer was dried over MgSO4, filtered and concentrated in vacuo. The solid residue was recrystallized from ethyl acetate to afford 0.21 g of 1-cyclopentyl-3-ethyl-6-[4-(5-tetrazolylmethoxy)phenylmethyl]pyrazolo[3,4-d]pyrimidin-4-one.2/5 hydrate, m.p. 240°-242° C.

reactant | Sodium | 0.253 g | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 3.7 mmol, 0.813 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | methyl 4-(5-tetrazolylmethoxy)phenylacetate | 7.3 mmol, 17 g | N1N=NN=C1COC1=CC=C(C=C1)CC(=O)OC | C11H12N4O3
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-[4-(5-tetrazolylmethoxy)phenylmethyl]pyrazolo[3,4-d]pyrimidin-4-one | 0.21 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)OCC2=NN=NN2)CC | C21H24N8O2
